US07666871B2
Add methanesulfonyl chloride (0.135 g, 0.935 mmol) to a cool (0° C.) solution of 2-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-ethanol (0.257 g, 0.719 mmol) and triethylamine (0.182 g, 1.80 mmol) in dichloromethane (5 mL). Warm to room temperature and stir for 1 hour. Remove the solvents, transfer the residue to a sealed tube, add tetrahydrofuran (5 mL) and N-methyl-isopropylamine (0.526 g, 7.19 mmol), and heat at 60° C. overnight. Add dichloromethane and wash the crude organic material with saturated sodium chloride solution. Dry the organic layer over Na2SO4, filter, and concentrate. Purify on silica gel eluting with 5% ammoniated methanol in dichloromethane to give isopropyl-{2-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-ethyl}-methyl-amine (0.056 g, 18%): mass spectrum (m/e): 413 (M+1). Treat the recovered material (0.056 g, 0.131 mmol) with 1N HCl (144 μL, 0.144 mmol) in ether, concentrate, and lyophilize to give the title compound (12.8 mg): MS (m/e): 413 (M+1).

reactant | methanesulfonyl chloride | 0.935 mmol, 0.135 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-ethanol | 0.719 mmol, 0.257 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C19H19NO4S
reactant | triethylamine | 1.80 mmol, 0.182 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-isopropylamine | 7.19 mmol, 0.526 g | CNC(C)C | C4H11N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | isopropyl-{2-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-ethyl}-methyl-amine | 0.056 g, 18% | C(C)(C)N(C)CCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C23H28N2O3S
